US03952012
A solution of 33.0 g. (0.096 mole) of ethyl 3-carboxy-1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetate in 200 ml. of quinoline with 0.1 g. copper chromite added is heated under nitrogen for 6 hr. at 200°C., then for 30 min. at 220°C. The quinoline is distilled off in vacuo. The residue is dissolved in ether and washed successively with dilute hydrochloric acid, dilute sodium hydroxide, and brine; dried over magnesium sulfate; and the solvent evaporated in vacuo to give a brown oily residue which crystallizes. It is recrystallized from methanol, sublimed at 150°C. (0.025 mm/Hg) and recrystallized from hexane to give ethyl 1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetate as a white solid, m.p. 90°-93°C.

reactant | ethyl 3-carboxy-1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetate | 0.096 mole | C(=O)(O)C1=C(N(C(=C1C)C(=O)C1=CC=C(C=C1)C)C)CC(=O)OCC | C19H21NO5
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
product | ethyl 1,4-dimethyl-5-(p-toluoyl)-pyrrole-2-acetate | CN1C(=CC(=C1C(=O)C1=CC=C(C=C1)C)C)CC(=O)OCC | C18H21NO3
